US04652297
N-trifluoroacetyl-N-[bis(dimethylamino)phosphinothioylmethyl]glycine, ethyl ester (1 g, 0.00275 mole), was dissolved in ethanol (20 ml). The resulting solution was stirred and sodium tetrahydrido boron (0.104 g, 0.00275 mole) was added portionwise over a ten minute period. The resulting solution was stirred for 60 minutes. The solvent was removed by evaporation under vacuum and the residue was washed with water. The water washings were saturated with sodium chloride and the aqueous layer and insoluble residue were simultaneously extracted with ethyl acetate three times. The combined ethyl acetate extracts were dried over sodium sulfate, filtered and concentrated in vacuo. The resulting residue was then chromatographed on silica gel with ether to yield N-[bis(dimethylamino)phosphinothioylmethyl]glycine, ethyl ester, ND25 =1.5317.

reactant | N-trifluoroacetyl-N-[bis(dimethylamino)phosphinothioylmethyl]glycine, ethyl ester | 0.00275 mole, 1 g | FC(C(=O)N(CC(=O)OCC)CP(=S)(N(C)C)N(C)C)(F)F | C11H21F3N3O3PS
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-[bis(dimethylamino)phosphinothioylmethyl]glycine, ethyl ester | CN(C)P(=S)(N(C)C)CNCC(=O)OCC | C9H22N3O2PS
